US09029545B2
{1-[3-(Methyloxy)phenyl]propylidene}propanedinitrile
Hexamethyldisilazane (5.51 mL, 26.3 mmol) was added dropwise to acetic acid (11.30 mL, 197 mmol) at RT under nitrogen. The resulting solution was then added to a solution of 1-[3-(methyloxy)phenyl]-1-propanone (Description 1) (2.7 g, 16.44 mmol) and malonitrile (2.173 g, 32.9 mmol) in acetic acid (10 mL). The reaction mixture was stirred at 70° C. for 12 h. The reaction mixture was cooled to RT then diluted with water (30 mL), the aqueous layer was then extracted with DCM (3×50 mL) and the combined organic extracts were dried over a phase separating column and concentrated. Purification by chromatography on silica gel, eluting with a gradient of 0-20% ethyl acetate in cyclohexane, afforded the title compound (3.13 g). LCMS (A) m/z: 211 [M−1]−, Rt 1.40 min (basic).

reactant | Hexamethyldisilazane | 26.3 mmol, 5.51 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 1-[3-(methyloxy)phenyl]-1-propanone | 16.44 mmol, 2.7 g | COC=1C=C(C=CC1)C(CC)=O | C10H12O2
reactant | malonitrile | 32.9 mmol, 2.173 g | C(C(O)CC#N)#N | C4H4N2O
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | water | 30 mL | O | H2O
solvent | acetic acid | 197 mmol, 11.30 mL | C(C)(=O)O | C2H4O2
product | {1-[3-(Methyloxy)phenyl]propylidene}propanedinitrile | 3.13 g | COC=1C=C(C=CC1)C(CC)=C(C#N)C#N | C13H12N2O
